US08183246B2
(2E)-6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-hex-2-enoic acid methyl ester
Add 0.095 ml (0.588 mmol) trimethyl phosphonoacetate dropwise at RT to a suspension of 21.6 mg sodium hydride (60% dispersion in oil, approx. 0.539 mmol) in 2 ml THF. Stir the mixture for a further 1 h and then add 190 mg (0.49 mmol) 4-{[5-(4-methoxyphenyl)-6-phenylfuro-[2,3-d]pyrimidin-4-yl]amino}butanal. Stir overnight at RT and then dilute the mixture with dichloromethane and water. Wash the organic phase with saturated sodium chloride solution, dry, and concentrate under vacuum. The target compound is isolated from the raw product by preparative RP-HPLC (twice) (gradient: water/acetonitrile). 23.4 mg (10.8% of theor.) of the desired product is obtained.

reactant | trimethyl phosphonoacetate | 0.588 mmol, 0.095 ml | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | approx. 0.539 mmol, 21.6 mg | [H-].[Na+]
reactant | 4-{[5-(4-methoxyphenyl)-6-phenylfuro-[2,3-d]pyrimidin-4-yl]amino}butanal | 0.49 mmol, 190 mg | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)NCCCC=O)C2=CC=CC=C2 | C23H21N3O3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (2E)-6-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]amino}-hex-2-enoic acid methyl ester | COC(\C=C\CCCNC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)=O | C26H25N3O4
